US06124283
(R)-N-[8-(4-Methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-cyanobenzamide
To an ice-cooled solution of (R)-2-amino-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene (130 mg, 0.53 mmol) and triethylamine (110 μL, 0.80 mmol) in methylene chloride (25 mL) was added dropwise 4-cyanobenzoyl chloride (92 mg, 0.56 mmol) in methylene chloride (5 mL). After the addition the reaction was allowed to stir at ambient temperature for 15 min and then washed with water. The phases were separated and the combined organic phases were dried (Na2SO4), filtered and evaporated in vacuo to give a crude product which was purified on a silica gel column using chloroform/ethanol saturated with NH3 (100:4) as the eluent. Yield: 120 mg (61%) of the title compound as white crystals: mp 184-186° C.; [α]21D -47° (c 1.0, CHCL3); EIMS (70 eV) m/z (relative intensity) 374 (54, M+).

reactant | (R)-2-amino-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene | 0.53 mmol, 130 mg | N[C@H]1CC2=C(C=CC=C2CC1)N1CCN(CC1)C | C15H23N3
reactant | triethylamine | 0.80 mmol, 110 μL | C(C)N(CC)CC | C6H15N
reactant | 4-cyanobenzoyl chloride | 0.56 mmol, 92 mg | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | (R)-N-[8-(4-Methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-cyanobenzamide | CN1CCN(CC1)C=1C=CC=C2CC[C@H](CC12)NC(C1=CC=C(C=C1)C#N)=O | C23H26N4O
